US06103946
Preparation of 2,6-bis[1-(2-ethylphenylimino)ethyl]pyridine, (VIII)
One g of 2,6-diacetylpyridine and 3.0 ml of 2-ethylaniline were added to a round-bottom flask with 30 ml of methanol. A stirbar and 5 drops of 97% formic acid were added, and the flask was sealed and the solution was stirred for 24 hours at 50° C. The flask was then cooled to room temperature and placed in a freezer at -30° C. After 1 day, yellow crystals had formed. The crystals were isolated by filtration and identified by 1H NMR as the desired product (1.25g, 55.2%). 1H NMR (CDCl3): δ 8.38(d, 2, Hpyr), 7.86(t, 1, Hpyr), 7.20(m, 4, Haryl), 7.07(t, 2, Haryl), 6.65(d, 2, Haryl), 2.49(q, 4, Hbenzyl), 2.35(s, 6, N--C--CH3), 1.14(t, 6, CH2CH3).

reactant | 2,6-diacetylpyridine | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2-ethylaniline | 3.0 ml | C(C)C1=C(N)C=CC=C1 | C8H11N
catalyst | formic acid | 5 drops | C(=O)O | CH2O2
solvent | methanol | 30 ml | CO | CH4O
product | 2,6-bis[1-(2-ethylphenylimino)ethyl]pyridine | 1.25g, 55.2% | C(C)C1=C(C=CC=C1)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=CC=C1)CC | C25H27N3
